US09403801B2
3-(8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile
To a solution of 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(7-azaspiro[4.5]decan-2-yl)pyrimidine-2,4-diamine (0.18 g, 0.479 mmol), 2-cyanoacetic acid (60.5 mg, 0.711 mmol) in a mixture of DCM (20 mL) and DMF (5 mL) were added HATU (335.2 mg, 0.882 mmol) and Et3N (169.4 mg, 1.674 mmol). After addition, the reaction mixture was stirred at rt overnight, then quenched with H2O (30 mL) and extracted with DCM (100 mL×3). The combined organic phases were washed with brine (100 mL), then dried over anhydrous Na2SO4, and concentrated in vacuo. The residue was purified by silica gel column chromatography (DCM/MeOH (v/v)=20/1) to give the title compound as a beige solid (83 mg, 39.1%).

reactant | 5-chloro-N4-methyl-N2-(1-methyl-1H-pyrazol-4-yl)-N4-(7-azaspiro[4.5]decan-2-yl)pyrimidine-2,4-diamine | 0.479 mmol, 0.18 g | ClC=1C(=NC(=NC1)NC=1C=NN(C1)C)N(C1CC2(CC1)CNCCC2)C | C18H26ClN7
reactant | 2-cyanoacetic acid | 0.711 mmol, 60.5 mg | C(#N)CC(=O)O | C3H3NO2
reactant | HATU | 0.882 mmol, 335.2 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | Et3N | 1.674 mmol, 169.4 mg | CCN(CC)CC | C6H15N
solvent | DCM | 20 mL | C(Cl)Cl | CH2Cl2
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 3-(8-((5-methyl-2-((1-methyl-1H-pyrazol-4-yl)amino)pyrimidin-4-yl)amino)-2-azaspiro[4.5]decan-2-yl)-3-oxopropanenitrile | 83 mg, 39.1% | CC=1C(=NC(=NC1)NC=1C=NN(C1)C)NC1CCC2(CCN(C2)C(CC#N)=O)CC1 | C21H28N8O
